* gnetlist -g spice-sdb -o motor.net motor.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/todoesverso/openbraille/trunk/simul/motor/1n4148.mod vvvvvvvv
.MODEL D1N4148 D 
+IS=0.1PA
+RS=16 CJO=2PF TT=12N BV=100 IBV=0.1PA

*^^^^^^^^  End of included SPICE model from /home/todoesverso/openbraille/trunk/simul/motor/1n4148.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/todoesverso/openbraille/trunk/simul/motor/tip122.sp3 vvvvvvvv
.SUBCKT tip122 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
* Model generated on Dec 19, 2003
* Model format: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=2.7545
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67927e-10
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
*^^^^^^^^  End of included SPICE model from /home/todoesverso/openbraille/trunk/simul/motor/tip122.sp3 ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/todoesverso/openbraille/trunk/simul/motor/bc337.mod vvvvvvvv
.MODEL Qbc337 npn
+IS=2.83372e-13 BF=255 NF=1.02154 VAF=10
+IKF=1.49182 ISE=2.38053e-11 NE=2.07043 BR=2.35039
+NR=1.06482 VAR=100 IKR=4.67427 ISC=9.29191e-13
+NC=3.99655 RB=4.8102 IRB=0.1 RBM=0.1
+RE=0.0853195 RC=0.426598 XTB=0.770827 XTI=1
+EG=1.19761 CJE=4.23873e-11 VJE=0.4 MJE=0.337119
+TF=7.10643e-10 XTF=1.15136 VTF=1.55902 ITF=0.169013
+CJC=1.55039e-11 VJC=0.786451 MJC=0.23 XCJC=0.1
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1

*^^^^^^^^  End of included SPICE model from /home/todoesverso/openbraille/trunk/simul/motor/bc337.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V2 in 0 5V
R5 7 3 47K  
V1 6 0 24V
R3 0 1 5k  
R_motor out 4 100  
Q1 1 3 0 Qbc337 
V_motor 4 0 24V
R2 1 5 5k  
R1 5 6 1k  
XT1 1 out 2 TIP122
D1 in 7 D1N4148 
R6 0 2 1  
.end
